US04609498
disproportionating 1,5-cyclooctadiene and 1-hexane in the presence of a disproportionation catalyst under disproportionation conditions suitable to produce 1,5,9-tetradecatriene;

reactant | 1,5-cyclooctadiene | C1=CCCC=CCC1 | C8H12
solvent | 1-hexane | CCCCCC | C6H14
product | 1,5,9-tetradecatriene | C=CCCC=CCCC=CCCCC | C14H24
